### PR TITLE
[Merged by Bors] - feat: port data.bitvec.core

### PR DESCRIPTION
**Pull request by Shreyas4991**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Bitvec/Core.lean [hunk 1]
```diff
@@ -310,48 +311,84 @@ attribute [local simp] Nat.zero_add Nat.add_zero Nat.one_mul Nat.mul_one Nat.zer
...
+     (List.foldl addLsb (addLsb 0 b') xs) * 2 + cond b 1 0 := by
+      rw [s₅ _]
+    have s₇ : addLsb (List.foldl addLsb (addLsb 0 b') xs) b
+      = (List.foldl addLsb (addLsb 0 b') xs) * 2 + cond b 1 0 := by
+      rw[s₁, s₆]
+    have s₈: addLsb (List.foldl addLsb (addLsb 0 b') xs) b =
+     (List.foldl addLsb (addLsb 0 b') xs) * 2 + addLsb 0 b := by
+     rw[s₇,s₄]
+    rw [Nat.add_comm]
+    exact s₈
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean:355]: What happened here? Why did the mathport output not work?

File: Mathlib/Data/Bitvec/Core.lean [hunk 2]
```diff
@@ -310,48 +311,84 @@ attribute [local simp] Nat.zero_add Nat.add_zero Nat.one_mul Nat.mul_one Nat.zer
...
+  case pos =>
+    rw[h]
+    simp
+  case neg =>
+    simp only [h]
+    dsimp
+    have h' := (mod_two_eq_zero_or_one n)
+    apply Eq.symm
+    simp [h] at h'
+    exact h'
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean:372]: Please port `cond_to_bool_mod_two` instead of rewriting this proof

File: Mathlib/Data/Bitvec/Core.lean (hunk 1 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:355]: the name `xs_ih` was one of the hidden names that the lean3 proof generated. The rest of it is because inductive hypothesis seemed to unfold differently and not `apply ih` would not work on it. The `unfold List.foldl` unfolded the `ih`, but the goal remained untouched.

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:355]: `simp only` or `simp` did not solve it either at the line `apply xs_ih` after fixing the above issues. I had to manually squash these equations together because lean4 `simp` was not identifying the patterns and applying the lemmas of `Nat.add_comm` and `Nat.mul_add` etc.  So I chose to manually apply them.

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 3]
```diff
@@ -288,6 +288,12 @@ not_lt.1 fun l ↦ Nat.find_min H l h
 end find
 
 -- TODO cont_to_bool_mod_two
+theorem cond_decide_mod_two (x : ℕ) [d : Decidable (x % 2 = 1)] :
+    cond (@decide (x % 2 = 1) d) 1 0 = x % 2 :=
+  by
+  by_cases h : x % 2 = 1
+  · simp! [*]
+  · cases mod_two_eq_zero_or_one x <;> simp! [*, Nat.zero_ne_one]
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Lemmas.lean:296]: Don't forget the `#align`

File: Mathlib/Data/Bitvec/Core.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: > the name `xs_ih` was one of the hidden names that the lean3 proof generated.

Then you should give it a non-hidden name in the `induction` line, assuming it's being used.

File: Mathlib/Data/Bitvec/Core.lean [hunk 4]
```diff
@@ -0,0 +1,408 @@
...
+#align bitvec.to_nat_append Bitvec.toNat_append
+
+-- Porting Note: the mathlib3port version of the proof was :
+--  simp [bits_to_nat_to_list]
+--  unfold bits_to_nat add_lsb List.foldl cond
+--  simp [cond_to_bool_mod_two]
+theorem bits_toNat_decide (n : ℕ) : Bitvec.toNat (decide (n % 2 = 1) ::ᵥ nil) = n % 2 := by
+  simp [bitsToNat_toList]
+  unfold bitsToNat addLsb List.foldl
+  simp [Nat.cond_decide_mod_two, -Bool.cond_decide]
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean:365]: When you change a proof like this, please add a porting note!

File: Mathlib/Data/Bitvec/Core.lean (hunk 1 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: Yeah it is not being used in any case. the boolean b' is being used though. I introduced it. I had also introduced `tail_ih` to use the mathlib3port version, but it was pointless. So I removed it.

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: Isn't the boolean `b` the `x` that is already introduced by the induction line?

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: There is also an `x : Nat`. Hence to disambiguate, I use `b`

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: The `x` that `induction` is supposed to be introducing is hidden as `x^{\dagger}`

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: @eric-wieser I made a correction. When comparing with the mathlib3port proof, I noticed I had removed a `clear h`. I introduced it and fixed the proof again.

File: Mathlib/Data/Bitvec/Core.lean [hunk 5]
```diff
@@ -310,48 +311,77 @@ attribute [local simp] Nat.zero_add Nat.add_zero Nat.one_mul Nat.mul_one Nat.zer
...
+  conv in addLsb x b =>
+    rw [← h];
   simp
+  clear h
   induction' xs with x xs generalizing x
   · simp
-    unfold List.foldl add_lsb
+    unfold addLsb
+    simp
     simp [Nat.mul_succ]
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean:328]: Are you sure you need this new intermediate `simp`?

File: Mathlib/Data/Bitvec/Core.lean [hunk 6]
```diff
@@ -310,48 +311,77 @@ attribute [local simp] Nat.zero_add Nat.add_zero Nat.one_mul Nat.mul_one Nat.zer
...
     rfl
-  · rw [of_nat_succ, to_nat_append, ih, bits_to_nat_to_bool, mod_pow_succ, Nat.mul_comm]
+  · rw [ofNat_succ, toNat_append, ih, bits_toNat_decide, mod_pow_succ, Nat.mul_comm]
 #align bitvec.to_nat_of_nat Bitvec.toNat_ofNat
 
 /-- Return the integer encoded by the input bitvector -/
 protected def toInt : ∀ {n : Nat}, Bitvec n → Int
   | 0, _ => 0
-  | succ n, v =>
-    cond (head v) (Int.negSucc <| Bitvec.toNat <| Not <| tail v)
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean]: is there an incorrect align for `bnot`?

File: Mathlib/Data/Bitvec/Core.lean [hunk 7]
```diff
@@ -361,17 +391,18 @@ end Conversion
 
 
 private def repr {n : Nat} : Bitvec n → String
-  | ⟨bs, p⟩ => "0b" ++ (bs.map fun b : Bool => if b then '1' else '0').asString
-#align bitvec.repr bitvec.repr
+  | ⟨bs, _⟩ => "0b" ++ (bs.map fun b : Bool => if b then '1' else '0').asString
+--#align bitvec.repr Bitvec.repr
+--porting note: Removed align for a private declaration.
+--Reference: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/align.20private.20decls/near/317107099
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Core.lean:397]: I suspect we need no note here, especially since the plan is to make `mathport` do this for us.

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 8]
```diff
@@ -209,20 +213,24 @@ protected theorem one_le_bit0 : ∀ n : ℕ, n ≠ 0 → 1 ≤ bit0 n
 end bit
 
 /- successor and predecessor -/
-
+/--`discriminate` is basically the principle of mathematical induction-/
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Lemmas.lean:216]: If this comment wasn't on the original lemma, then it doesn't belong in a porting PR. This comment didn't exist in mathlib3.

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 9]
```diff
@@ -209,20 +213,24 @@ protected theorem one_le_bit0 : ∀ n : ℕ, n ≠ 0 → 1 ≤ bit0 n
...
 def discriminate (H1 : n = 0 → α) (H2 : ∀m, n = succ m → α) : α :=
   match n with
   | 0 => H1 rfl
   | succ m => H2 m rfl
 
 lemma one_eq_succ_zero : 1 = succ 0 := rfl
 
+/--`two_step_induction`: If `P` is a property of natural numbers
+that is true for `0` and `1` and it it is true that `P m` and `P (m+1)`
+implies `P m+2`, then `P a` holds for all `a : N`-/
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Lemmas.lean:226]: Please remove this comment, it doesn't belong in this PR

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 10]
```diff
@@ -209,20 +213,24 @@ protected theorem one_le_bit0 : ∀ n : ℕ, n ≠ 0 → 1 ≤ bit0 n
...
 def two_step_induction {P : ℕ → Sort u} (H1 : P 0) (H2 : P 1)
     (H3 : ∀ (n : ℕ), P n → P (succ n) → P (succ (succ n))) : (a : ℕ) → P a
 | 0   => H1
 | 1   => H2
 | _+2 => H3 _ (two_step_induction H1 H2 H3 _) (two_step_induction H1 H2 H3 _)
 
+/--Induction principle on two `ℕ` variables-/
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Lemmas.lean:233]: idem

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 11]
```diff
@@ -232,6 +240,7 @@ def sub_induction {P : ℕ → ℕ → Sort u} (H1 : ∀m, P 0 m)
 protected def lt_ge_by_cases {a b : ℕ} {C : Sort u} (h₁ : a < b → C) (h₂ : b ≤ a → C) : C :=
 if h : a < b then h₁ h else h₂ (not_lt.1 h)
 
+/--Generalises total ordering of natural numbers-/
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Lemmas.lean:243]: idem

File: Mathlib/Data/Bitvec/Core.lean [hunk 12]
```diff
@@ -310,48 +311,77 @@ attribute [local simp] Nat.zero_add Nat.add_zero Nat.one_mul Nat.mul_one Nat.zer
...
+  simp [bitsToNat_toList]; clear P
+  unfold bitsToNat List.foldl
   -- generalize the accumulator of foldl
   generalize h : 0 = x;
-  conv in add_lsb x b => rw [← h]; clear h
+  conv in addLsb x b =>
+    rw [← h];
   simp
+  clear h
   induction' xs with x xs generalizing x
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:324]: Clear throws an error there

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 8 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean:216]: Thus came up with #lint along with the other doc strings requests.

File: Mathlib/Data/Bitvec/Core.lean (hunk 5 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:328]: If memory serves me right, it is necessary to work. I can check this again later (3 hours or so)

File: Mathlib/Data/Bitvec/Core.lean [hunk 13]
```diff
@@ -237,10 +238,10 @@ def Uge (x y : Bitvec n) : Prop :=
 /-- `sborrow x y` returns `tt` iff `x < y` as two's complement integers -/
 def sborrow : ∀ {n : ℕ}, Bitvec n → Bitvec n → Bool
   | 0, _, _ => false
-  | succ n, x, y =>
+  | succ _, x, y =>
     match (head x, head y) with
-    | (tt, ff) => true
-    | (ff, tt) => false
+    | (true, false) => true
+    | (false, true) => false
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:244]: So far, in all my ports, I have had to manually fix them. It makes sense though. How does one reliably distinguish between correct and incorrect occurrences of the character sequence `tt` or `ff`?

File: Mathlib/Data/Bitvec/Core.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/Data/Bitvec/Core.lean:328]: If you need it, please replace it with the output of `simp?`.

File: Mathlib/Data/Bitvec/Core.lean [hunk 14]
```diff
@@ -108,23 +109,23 @@ section Bitwise
 variable {n : ℕ}
 
 /-- bitwise not -/
-def not : Bitvec n → Bitvec n :=
-  map not
+def not (bv : Bitvec n) : Bitvec n :=
+  map _root_.not bv
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean:113]: Yes. The whole point of `nonrec` is to disambiguate names though as far as I understand.

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Init/Data/Nat/Lemmas.lean:216]: There are already ignores in this file for those lint errors, you don't need to fix them just because `#lint` finds them

File: Mathlib/Data/Bitvec/Core.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:113]: That should be the task of namespaces

[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:113]: More specifically features like this were introduced to allow shadowing of names in ways that would not trigger recursion, not as a substitute for doing the job of namespaces I.e. proper scoping and disambiguation of names.

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 8 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean:216]: Okay I will remove them.

File: Mathlib/Data/Bitvec/Core.lean (hunk 5 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:328]: Okay. I'll do that (tomorrow)

File: Mathlib/Data/Bitvec/Core.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean:113]: Based on [the zulip thread where the feature was added](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/synport.20experimentation/near/250236474), the whole point of it is to avoid namespace issues like this

[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:113]: I looked further down the thread. `nonrec` was useful for disambiguating the use of `min` when there is a seemingly recursive reference of `min`. Using  `_root_.min` would not help according to the thread  (https://leanprover-community.github.io/archive/stream/287929-mathlib4/topic/synport.20experimentation.html#250239057). 

In general a feature like this (`let` vs `let_rec` in scheme and the French ML family) exists because there is a need to have the ability to shadow or not shadow the name of the definition itself. In these cases the order of evaluation can be different and the type checker can do things differently (whether or not lean4 *currently* does so is another matter) (see: .https://cs.stackexchange.com/a/101174). 

Here the issue is lean cannot tell which `not` to use, so it defaults to the local one. This is a namespace issue. Fixing it with something that is/can alter evaluation/type checking semantics is not a future proof way to solve this problem.

I don't mind making this change now. But it is a conceptually overloaded fix for a simple problem that goes away by clarifying the namespace.

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean:113]: > I looked further down the thread. `nonrec` was useful for disambiguating the use of `min` when there is a seemingly recursive reference of `min`. Using `_root_.min` would not help according to the thread (https://leanprover-community.github.io/archive/stream/287929-mathlib4/topic/synport.20experimentation.html#250239057). This is not the situation here.

I'm struggling to see hwo the situation is any different there vs here. Can you quote the message that claims `_root_.min` doesn't work? (I think maybe the spelling that does work is `linear_order.min`, but that feels analogous to `_root_.min`).

[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean:113]: The claim is made here: https://leanprover-community.github.io/archive/stream/287929-mathlib4/topic/synport.20experimentation.html#250239310

File: Mathlib/Data/Bitvec/Core.lean (hunk 5 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: I got a suggestion from simp? and inserted this suggested `simp only ....`. The proof works.

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 10 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean]: Done

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 11 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean]: Done.

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 9 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean]: Done

File: Mathlib/Init/Data/Nat/Lemmas.lean (hunk 8 above)
Comment (Shreyas4991) [reply Mathlib/Init/Data/Nat/Lemmas.lean]: Done. Removed all the doc strings that I added, from that file.

File: Mathlib/Data/Bitvec/Core.lean (hunk 6 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: The [docs](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Init/Data/Bool/Basic.html) suggest that `bnot` became `not` in lean4/mathlib4

**Comment by Shreyas4991** [comment]
I think I got all the review comments sorted except the one under discussion about `_root_`

**Comment by eric-wieser** [comment]
I don't think we need to resolve the `_root_` discussion before merging this PR; but I'm still worried by how much longer the proof has gotten here, and worry that we might be missing something.

**Comment by Shreyas4991** [comment]
> I don't think we need to resolve the `_root_` discussion before merging this PR; but I'm still worried by how much longer the proof has gotten here, and worry that we might be missing something.

If you are talking about the proof of `toNat_append`, I am not sure how to reduce it further. On the other hand, the proof is rather explicit, so maybe it is checked more quickly? I would be grateful for any help in reducing it.

File: Mathlib/Data/Bitvec/Core.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: Not for me it doesn't

File: Mathlib/Data/Bitvec/Core.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: In this case I think actually `nonrec` is a distraction; the right thing to do is mark these definitions `protected`, since they didn't clash with anything in the `_root_` namespace in Lean 3, but now they do in Lean 4.

File: Mathlib/Data/Bitvec/Core.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: I deleted the new `simp`, it wasn't needed.

**Comment by eric-wieser** [comment]
> If you are talking about the proof of `toNat_append`, I am not sure how to reduce it further.

The way to do this is to open up the same proof in mathlib3, and look at where the state diverges. I did that, and the problem was that `unfold List.foldl` was doing somethng weird in Lean 4. Replacing it with `rw` fixed it.

File: Mathlib/Data/Bitvec/Core.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: Resolving, I've deleted this proof in favor of the mathlib3 one

File: Mathlib/Data/Bitvec/Core.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: Indeed; I'm curious why mathport output `Not` here

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Core.lean]: Not sure. But I see no align in the [source](https://github.com/leanprover/lean4/blob/5349a089e5bb6905eaca1a09e2b587488f8e4715/src/Init/Prelude.lean#L979-L981). Is this some default behaviour when no align is found or is there a possibility that the aligns are elsewhere?

**Comment by eric-wieser** [comment]
I think all the remaining unresolved comments are possible mathport issues rather than issues with this PR

File: Mathlib/Data/Bitvec/Core.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Core.lean]: The align is [here](https://github.com/leanprover-community/mathlib4/blob/8280a0e1ed38b070f3ab155921a90490e6a71e00/Mathlib/Init/Data/Bool/Basic.lean#L19)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
